### PR TITLE
feat(QM): unbounded operator inequalities

### PR DESCRIPTION
**Pull request by gloges**
- Defines `IsSymmetric` for unbounded operators and shows this is equivalent to having `⟪Tx, x⟫` real.
- Adds inequalities satisfied by all unbounded operators (`le_adjoint_adjoint`, `adjoint_ge_adjoint_of_le` and `closure_mono`).
- Adds inequality characterizing symmetric unbounded operators (`isSymmetric_iff_le_adjoint`).

(cf. #982 for poset)

### CODE REVIEW

**Comment by gloges** [comment]
t-quantum-mechanics

**Comment by gloges** [comment]
RFC

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 1]
```diff
@@ -214,6 +255,50 @@ def ofSymmetric : UnboundedOperator H H where
...
+lemma inner_map_polarization (x y : T.domain) :
+    ⟪T x, ↑y⟫_ℂ = (⟪T (x + y), ↑(x + y)⟫_ℂ - ⟪T (x - y), ↑(x - y)⟫_ℂ
+    - Complex.I * ⟪T (x + Complex.I • y), ↑(x + Complex.I • y)⟫_ℂ
+    + Complex.I * ⟪T (x - Complex.I • y), ↑(x - Complex.I • y)⟫_ℂ) / 4 := by
+  simp only [LinearPMap.map_add, coe_add, inner_add_right, inner_add_left, LinearPMap.map_sub,
+    AddSubgroupClass.coe_sub, inner_sub_right, inner_sub_left, LinearPMap.map_smul,
+    SetLike.val_smul, inner_smul_left, Complex.conj_I, inner_smul_right]
+  ring_nf
+  rw [Complex.I_sq]
+  ring
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Would `grind [Complex.I_sq]` work here?

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 2]
```diff
@@ -214,6 +255,50 @@ def ofSymmetric : UnboundedOperator H H where
...
+
+lemma isSymmetric_iff_inner_map_self_real :
+    IsSymmetric T ↔ ∀ x : T.domain, (starRingEnd ℂ) ⟪T x, x⟫_ℂ = ⟪T x, x⟫_ℂ := by
+  simp only [inner_conj_symm]
+  refine ⟨fun hT x ↦ (hT x x).symm, ?_⟩
+  intro h x y
+  rw [inner_map_polarization, inner_map_polarization']
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:290]:
```suggestion
  refine ⟨fun hT x ↦ (hT x x).symm, fun h x y ↦ ?_⟩
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 3]
```diff
@@ -186,9 +206,29 @@ lemma adjoint_adjoint_eq_closure : U†† = U.closure := by
...
+    have h : U₁ x = U₂ ⟨x, hx₂⟩ := h_agree x x.2 x hx₂ rfl
+    exact h ▸ adjoint_isFormalAdjoint U₂.dense_domain v ⟨x, hx₂⟩
+  constructor
+  · intro v hv
+    apply mem_adjoint_domain_of_exists v
+    use U₂† ⟨v, hv⟩
+    exact fun x ↦ heq x ⟨v, hv⟩
+  · intro u v huv
+    refine (adjoint_apply_eq U₁.dense_domain v ?_).symm
+    exact fun x ↦ huv ▸ heq x u
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
  · exact fun u v huv => (adjoint_apply_eq U₁.dense_domain v (fun x ↦ huv ▸ heq x u).symm
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 1 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Thanks, that worked a charm!

**Comment by gloges** [comment]
Thanks, I have made the suggested changes.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 4]
```diff
@@ -112,6 +122,14 @@ def IsClosed : Prop := U.toLinearPMap.IsClosed
 
 lemma closure_isClosed : U.closure.IsClosed := IsClosable.closure_isClosed U.is_closable
 
+lemma isClosed_def : IsClosed U ↔ U.closure = U := by
+  refine ⟨?_, fun h ↦ h ▸ closure_isClosed U⟩
+  intro h
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
  refine ⟨fun h  ↦ ?_, fun h ↦ h ▸ closure_isClosed U⟩
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 5]
```diff
@@ -232,6 +310,26 @@ lemma isSelfAdjoint_iff : IsSelfAdjoint T ↔ IsSelfAdjoint T.toLinearPMap := by
   rw [isSelfAdjoint_def, LinearPMap.isSelfAdjoint_def, ← adjoint_toLinearPMap,
     UnboundedOperator.ext_iff]
 
+lemma isSelfAdjoint_isClosed {T : UnboundedOperator H H} (hT : IsSelfAdjoint T) : IsClosed T :=
+  hT ▸ adjoint_isClosed T
+
+lemma isSelfAdjoint_isSymmetric {T : UnboundedOperator H H} (hT : IsSelfAdjoint T) :
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: `isSymmetric_of_isSelfAdjoint` probably a better name here

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 6]
```diff
@@ -214,6 +253,45 @@ def ofSymmetric : UnboundedOperator H H where
...
+lemma inner_map_polarization (x y : T.domain) :
+    ⟪T x, ↑y⟫_ℂ = (⟪T (x + y), ↑(x + y)⟫_ℂ - ⟪T (x - y), ↑(x - y)⟫_ℂ
+    - Complex.I * ⟪T (x + Complex.I • y), ↑(x + Complex.I • y)⟫_ℂ
+    + Complex.I * ⟪T (x - Complex.I • y), ↑(x - Complex.I • y)⟫_ℂ) / 4 := by
+  simp only [LinearPMap.map_add, coe_add, inner_add_right, inner_add_left, LinearPMap.map_sub,
+    AddSubgroupClass.coe_sub, inner_sub_right, inner_sub_left, LinearPMap.map_smul,
+    SetLike.val_smul, inner_smul_left, Complex.conj_I, inner_smul_right]
+  grind [Complex.I_sq]
+
+lemma inner_map_polarization' (x y : T.domain) :
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: This lemma and the one above might be better suited further up the file

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 5 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: I changed `isSelfAdjoint_isClosed` → `isClosed_of_isSelfAdjoint` as well.

**Comment by gloges** [comment]
-awaiting-author

**Comment by gloges** [comment]
RFC

**Review by jstoobysmith — APPROVED** [review]
Approved - many thanks. Will merge shortly
